US06331543B1
2d. 4-((1,3-benzodioxol-5-ylmethyl)amino)-2,6-dichloro quinazoline
A solution of 2,4,6-trichloroquinazoline (0.186 g, 0.80 mmol) in ethanol (20 ml) was heated to 55° C. and piperonylamine (0.145 g, 0.96 mmol) was added. The resulting mixture was stirred at 55° C. over night. Volatiles were evaporated and the residue was partitioned between methylene chloride and saturated solution of ammonium hydroxide. The organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo to yield 0.268 g (96% yield) of the title compound as a white solid. 1H NMR (300 MHz, DMSO) δ4.59-4.63 (d, 2 H), 5.98 (s, 2 H), 6.86 (s, 2 H), 6.86 (s, 2 H), 6.96 (s, 1 H), 7.62-7.66 (d, 1 H), 7.79-7.84 (d, 1 H), 8.46 (s, 1 H), 9.24-9.28 (t, 1 H).

reactant | 2,4,6-trichloroquinazoline | 0.80 mmol, 0.186 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | piperonylamine | 0.96 mmol, 0.145 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-((1,3-benzodioxol-5-ylmethyl)amino)-2,6-dichloro quinazoline | 0.268 g, 96% yield | O1COC2=C1C=CC(=C2)CNC2=NC(=NC1=CC=C(C=C21)Cl)Cl | C16H11Cl2N3O2
